US06933403B2
In the solution of 220 g(2 mol) of hydroquinone in 500 ml of acetic acid, 107.5 g(1 mol) of dimethylcarbamyl chloride was drop-added for one hour while agitating the solution at 110° C. The mixture was maintained at 110° C. for two hours, and acetic acid was distilled under vacuum. 1 liter of methylene chloride was added to the reaction mixture, and the unreacted excess hydroquinone was filtered and collected (recoverd amount: 110 g, recycled without any purification process). A desired mono N,N-dimethylcarbamyl hydroquinone was obtained by evaporating the residue under vacuum. (Yield: 178.6 g(98%). mp: 144-146° C., 1H-NMR(200 MHz, CDCl3, ppm) 3.05 (d, 6H), 6.59 (d, 2H), 6.80 (br, 1H) 6.82 (d, 2H).

reactant | hydroquinone | 2 mol, 220 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | dimethylcarbamyl chloride | 1 mol, 107.5 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethylcarbamyl hydroquinone | CN(C(=O)C1=C(O)C=CC(=C1)O)C | C9H11NO3
